US09216964B2
To a reaction tube under argon containing 5-bromo-2-(1,1-dioxo-thietan-3-yl)-1,2,3,4-tetrahydroisoquinoline (70 mg, 0.22 mmol), 3-(isoquinolin-3-yl)-4-methylaniline (51 mg, 0.22 mmol), Pd2(dba)3 (22 mg, 0.022 mmol), xantphos (37 mg, 0.044 mmol), potassium phosphate (133 mg, 0.66 mmol) is added anhydrous dioxane (1 ml). The mixture is stirred at 96° C. for 18 hours, cooled to room temperature, filtered through a celite pad to remove solid. The filtrate is concentrated and purified by preparative HPLC to afford N-(3-(Isoquinolin-3-yl)-4-methylphenyl)-2-(1,1-dioxo-thietan-3-yl)-1,2,3,4-tetrahydroisoquinolin-5-amine as a white solid (36.2 mg, 37%). LC-MS m/z: 470.2 (M+1); 1H NMR 400 MHz (CDCl3) δ 9.31 (s, 1H), 8.00 (d, 2H, J=8.4), 7.83 (d, 1H, J=8.4 Hz), 7.72-7.70 (m, 2H), 7.61 (t, 1H, J=6.8 Hz), 7.20 (d, 1H, J=8.4 Hz), 7.13-7.09 (m, 3H), 6.94 (dd, 1H, J=2.4, 8.0 Hz), 6.70 (d, 1H, J=8.4 Hz), 5.34 (s, 1H), 4.44 (s, 2H), 3.59 (t, 2H, J=6.0 Hz), 2.97 (s, 3H), 2.82-2.78 (m, 6H), 2.34 (s, 3H).

reactant | 5-bromo-2-(1,1-dioxo-thietan-3-yl)-1,2,3,4-tetrahydroisoquinoline | 0.22 mmol, 70 mg | BrC1=C2CCN(CC2=CC=C1)C1CS(C1)(=O)=O | C12H14BrNO2S
reactant | 3-(isoquinolin-3-yl)-4-methylaniline | 0.22 mmol, 51 mg | C1=NC(=CC2=CC=CC=C12)C=1C=C(N)C=CC1C | C16H14N2
reactant | xantphos | 0.044 mmol, 37 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium phosphate | 0.66 mmol, 133 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.022 mmol, 22 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | N-(3-(Isoquinolin-3-yl)-4-methylphenyl)-2-(1,1-dioxo-thietan-3-yl)-1,2,3,4-tetrahydroisoquinolin-5-amine | 36.2 mg, 37% | C1=NC(=CC2=CC=CC=C12)C=1C=C(C=CC1C)NC=1C=2CCN(CC2C=CC1)C1CS(C1)(=O)=O | C28H27N3O2S
